US04636513
(5) N-(5-Methyl-4-isoxazolylcarbonyl)-thiomorpholine
of melting point 64.5° to 65° C., prepared from 5-methyl-4-isoxazolecarboxylic acid chloride and thiomorpholine.

reactant | 5-methyl-4-isoxazolecarboxylic acid chloride | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | N-(5-Methyl-4-isoxazolylcarbonyl)-thiomorpholine | CC1=C(C=NO1)C(=O)N1CCSCC1 | C9H12N2O2S
